US05962682
Analogously to Example 86, by condensing methyl 3-amino-4-(3-methoxy-phenoxy)-5-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-benzoate with 4-methylsulphanylbenzenesulphonyl chloride there was obtained methyl 4-(3-methoxy-phenoxy)-3-(4-methylsulphanyl-benzenesulphonylamino)-5-[2-(tetrahydro-pyran-2-yl-oxy)-ethoxy]-benzoate and therefrom by treatment with 5.5M HCl there was obtained methyl 3-(2-hydroxy-ethoxy)-4-(3-methoxy-phenoxy)-5-(4-methylsulphanyl-benzenesulphonylamino)-benzoate.

reactant | methyl 3-amino-4-(3-methoxy-phenoxy)-5-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-benzoate | NC=1C=C(C(=O)OC)C=C(C1OC1=CC(=CC=C1)OC)OCCOC1OCCCC1 | C22H27NO7
reactant | 4-methylsulphanylbenzenesulphonyl chloride | CSC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S2
product | methyl 4-(3-methoxy-phenoxy)-3-(4-methylsulphanyl-benzenesulphonylamino)-5-[2-(tetrahydro-pyran-2-yl-oxy)-ethoxy]-benzoate | COC=1C=C(OC2=C(C=C(C(=O)OC)C=C2OCCOC2OCCCC2)NS(=O)(=O)C2=CC=C(C=C2)SC)C=CC1 | C29H33NO9S2
